US04695569
To a stirred mixture of 4.7 parts of N-[2-[4-[[1-(2-furanylmethyl)-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-2-(methylamino)benzamide, 2.02 parts of N,N-diethylethanamine and 195 parts of dichloromethane was added dropwise a solution of 1.14 parts of carbonothioic dichloride in dichloromethane. Upon completion, stirring was continued overnight at room temperature. The reaction mixture was poured into water. The layers were separated. The organic layer was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 1.4 parts (27.5%) of 3-[2-[4-[[1-(2-furanylmethyl)-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-2,3-dihydro-1-methyl-2-thioxo-4(1H)-quinazolinone; mp. 188.4° C. (compound 129).

reactant | N-[2-[4-[[1-(2-furanylmethyl)-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-2-(methylamino)benzamide | O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC(C2=C(C=CC=C2)NC)=O | C27H32N6O2
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | carbonothioic dichloride | C(=S)(Cl)Cl | CCl2S
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[2-[4-[[1-(2-furanylmethyl)-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-2,3-dihydro-1-methyl-2-thioxo-4(1H)-quinazolinone | 27.5% | O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN2C(N(C1=CC=CC=C1C2=O)C)=S | C28H30N6O2S
